US07951828B1
Step 4: Production of 3-chloro-4-fluoro-5-trifluoromethyl-1-(1-trifluoromethylethenyl)benzene
In a solution of 2.58 g of 3-chloro-2-fluoro-5-iodobenzotrifluoride and 0.68 g of tert-butylmethyl ether in 20 mL of hexane, 6.0 mL of n-butyl lithium (1.54M hexane solution) was added dropwise at −20° C. with stirring, and stirred at the same temperature for 30 minutes. Then, a solution of 0.88 g of trimethoxyborane in 10 mL of tetrahydrofuran was added dropwise. After the completion of the addition dropwise, it was stirred at the same temperature further for 30 minutes and then the temperature was raised to room temperature. Then, in the reaction mixture, 4.00 g of 2-bromo-3,3,3-trifluoropropene, 2.20 g of potassium carbonate, 15 mL of water and 0.03 g of 1,3-bis(2,6-diisopropylphenyl)imidazole-2-ilidene (1,4-naphthoquinone) palladium (0) dimmer were added, and stirred under nitrogen atmosphere at 60° C. for 6 hours. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, insoluble material was filtered off, and the organic phase was collected and the aqueous phase was extracted with 30 mL of diethyl ether twice. The combined organic phases were washed with water, and dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with hexane to obtain 1.70 g of the aimed product as yellow oily substance.

reactant | 3-chloro-2-fluoro-5-iodobenzotrifluoride | 2.58 g | ClC=1C(=C(C=C(C1)I)C(F)(F)F)F | C7H2ClF4I
reactant | trimethoxyborane | 0.88 g | COB(OC)OC | C3H9BO3
reactant | 2-bromo-3,3,3-trifluoropropene | 4.00 g | BrC(=C)C(F)(F)F | C3H2BrF3
reactant | potassium carbonate | 2.20 g | C([O-])([O-])=O.[K+].[K+]
solvent | hexane | 20 mL | CCCCCC | C6H14
solvent | n-butyl lithium | 1.54M, 6.0 mL | C(CCC)[Li]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | tert-butylmethyl ether | 0.68 g | C(C)(C)(C)OC | C5H12O
product | 3-chloro-4-fluoro-5-trifluoromethyl-1-(1-trifluoromethylethenyl)benzene | 1.70 g | ClC=1C=C(C=C(C1F)C(F)(F)F)C(=C)C(F)(F)F | C10H4ClF7
